US09034866B2
Synthesis of 9-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohept a[1,2-d]imidazole-2-carboxamide
To a solution 9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide (100 mg, 0.26 mmol) in piperidine (2 mL) was introduced 2-methyl-3-butyn-2-ol (89 mg, 1.05 mmol) and copper(I) iodide (2.5 mg, 0.01 mmol). The solution was de-oxygenated by nitrogen bubbling for five minutes, then tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.01 mmol) added and bubbling continued for a further two minutes. The pressure tube was closed under an atmosphere of nitrogen and the reaction mixture warmed to 40° C. for 2.5 hr. After evaporation of the reaction mixture in vacuo, the residue was suspended in ethyl acetate (25 mL) and washed with saturated aqueous sodium bicarbonate (6 mL), water (2×10 mL) and brine (5 mL). The organic extract was dried over sodium sulfate, filtered, and the filtrate adsorbed onto silica gel in vacuo. Purification of the dry-loaded material by silica gel flash column chromatography (eluent: heptane/ethyl acetate gradient) was followed by suspension of the product in acetonitrile (0.6 mL). The solid was collected by filtration to furnish the title compound (4.5 mg, 0.011 mmol, 4%) as a colorless solid: 1H NMR (500 MHz, CDCl3) delta 1.65 (s, 6H), 1.71 (d, J=9.46 Hz, 2H), 2.15 (br. s., 1H), 2.91-3.00 (m, 2H), 3.48 (td, J=7.41, 3.78 Hz, 1H), 3.65 (td, J=8.04, 3.47 Hz, 1H), 4.01 (s, 3H), 5.37 (br. s., 1H), 7.03 (d, J=7.57 Hz, 1H), 7.14 (dd, J=7.72, 1.42 Hz, 1H), 7.49 (br. s., 1H), 8.47 (br. s., 1H); LC-MS: m/z=+336.10 (M+H)+

reactant | 9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 0.26 mmol, 100 mg | IC=1C=CC2=C(C3=C(N(C(=N3)C(=O)N)C)C3CC2C3)C1 | C15H14IN3O
reactant | 2-methyl-3-butyn-2-ol | 1.05 mmol, 89 mg | CC(C)(C#C)O | C5H8O
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
catalyst | copper(I) iodide | 0.01 mmol, 2.5 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohept a[1,2-d]imidazole-2-carboxamide | 0.011 mmol, 4.5 mg, 4% | OC(C#CC=1C=CC2=C(C3=C(N(C(=N3)C(=O)N)C)C3CC2C3)C1)(C)C | C20H21N3O2
